US09120749B2
(4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone
Following general procedure D, tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate (100 mg, 0.18 mmol) was reacted with 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (78 mg, 0.27 mmol) to obtain the protected intermediate which was subjected to general procedure A-2 to afford the desired product (49 mg, 50% over 2 steps) as a yellow solid: 1H NMR (500 MHz, CD3OD+TFA-d) δ 9.40 (s, 1H), 8.22 (m, 2H), 8.12 (s, 1H), 8.02 (d, J=8.8 Hz, 1H), 7.70 (dd, J=9.2, 2.7 Hz, 1H), 7.34 (s, 2H), 7.13 (d, J=9.3 Hz, 1H), 4.52 (s, 1H), 4.02 (dt, J=13.0, 4.1 Hz, 1H), 3.35 (m, 2H), 2.85 (tt, J=7.8, 4.5 Hz, 1H), 2.20 (m, 1H), 1.95 (m, 1H), 1.73 (q, J=9.8 Hz, 2H), 1.22 (m, 4H); ESI MS m/z 548 [C29H27Cl2N5O2+H]+; HPLC 99.6% (AUC), tR=10.95 min.

reactant | tert-butyl 1-(5-(6-bromo-3-(cyclopropanecarbonyl)quinolin-4-ylamino)pyridin-2-yl)piperidin-3-ylcarbamate | 0.18 mmol, 100 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CC(CCC1)NC(OC(C)(C)C)=O | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.27 mmol, 78 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
product | (4-(6-(3-aminopiperidin-1-yl)pyridin-3-ylamino)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl)(cyclopropyl)methanone | 49 mg, 50% | NC1CN(CCC1)C1=CC=C(C=N1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C29H27Cl2N5O2
